US07517889B2
Sodium hydride (60% in oil, 1.07 g, 26.8 mmol) is added to a solution of (3-bromo-phenyl)-acetic acid ethyl ester [2.59 g, 10.7 mmol] and 18-crown-6 (catalytic amount) in N,N′-dimethylformamide (50 mL). The mixture is stirred for 25 minutes and 1,4-dibromobutane (1.41 mL, 11.8 mmol) is added dropwise via syringe. The mixture is stirred for 18 hours at ambient temperature, diluted with water (100 mL) and extracted thrice with EtOAc (60 mL). The organic extracts are combined and dried over magnesium sulfate, filtered and concentrated to afford 1-(3-bromo-phenyl)-cyclopentanecarboxylic acid ethyl ester [2.9 g, 91%] as an oil, which is used without further purification.

reactant | Sodium hydride | 26.8 mmol, 1.07 g | [H-].[Na+]
reactant | (3-bromo-phenyl)-acetic acid ethyl ester | 10.7 mmol, 2.59 g | C(C)OC(CC1=CC(=CC=C1)Br)=O | C10H11BrO2
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 1,4-dibromobutane | 11.8 mmol, 1.41 mL | BrCCCCBr | C4H8Br2
solvent | N,N′-dimethylformamide | 50 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 1-(3-bromo-phenyl)-cyclopentanecarboxylic acid ethyl ester | 2.9 g, 91% | C(C)OC(=O)C1(CCCC1)C1=CC(=CC=C1)Br | C14H17BrO2
